US09193728B2
Preparation of 6-bromo-5-(2-(4-fluorophenyl)allyl)-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole
Sodium hydride (49.8 mg, 21.67 mmol) was charged in DMF (3 mL) and cooled to 0° C. 6-Bromo-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (200 mg, 0.83 mmol) was added and stirred at 0° C. for 5 min. 1-(3-Bromoprop-1-en-2-yl)-4-fluorobenzene (195.25 mg, 0.917 mmol) dissolved in DMF (1 mL) was added at 0° C. and stirred at RT for 2 h. Ice was added and the resultant solid obtained was filtered. The product was purified on silica using 0-7% MeOH:DCM as eluent. Yield: 85 mg.

reactant | Sodium hydride | 21.67 mmol, 49.8 mg | [H-].[Na+]
reactant | 6-Bromo-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.83 mmol, 200 mg | BrC1=CC(=CC=2C3=C(NC12)CCN(C3)C)C | C13H15BrN2
reactant | 1-(3-Bromoprop-1-en-2-yl)-4-fluorobenzene | 0.917 mmol, 195.25 mg | BrCC(=C)C1=CC=C(C=C1)F | C9H8BrF
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 6-bromo-5-(2-(4-fluorophenyl)allyl)-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | BrC1=CC(=CC=2C3=C(N(C12)CC(=C)C1=CC=C(C=C1)F)CCN(C3)C)C | C22H22BrFN2
